US07018997B2
Step 5: (5R), (6Z)-6-(4,5,6,7-tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt
(5R, 6RS)-6-{(RS)-Acetoxy-[4,5,6,7-tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-yl]-methyl}-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (643.6 mg) was dissolved in THF (9 mL) and acetonitrile (4.2 mL). Freshly activated Zn dust (2.57 g) and 0.5 M phosphate buffer (pH 6.4, 13.2 mL) were added to the reaction mixture. The reaction vessel was covered with foil to exclude light. The mixture was vigorously stirred for 2 h at room temperature. The mixture was cooled to 3° C., and 1 N NaOH aqueous solution was added to adjust pH to 7.5. The reaction solution was mixed with ethyl acetate and filtered through a pad of Celite. The pad was washed with water. The aqueous layer was concentrated to 20 mL under high vacuum at 35° C. The concentrate was applied to Diaion HP-21 (60 mL, Mitsubishi Kasei Co. Ltd.) resin column chromatography. After adsorbing, the column was eluted with water and then with 2.5–10% acetonitrile-water. The combined fractions was concentrated under high vacuum at 35° C. and lyophilized to give the title compound as a yellow amorphous solid (68 mg, 18%, pH 7.4). Mp 175° C. (dec); 1H-NMR (400 MHz, D2O) δ 1.85–2.03 (m, 4H), 2.85–2.99 (m, 2H), 4.07–4.14 (m, 2H), 6.34 (s, 1H), 6.74 (s, 1H), 6.76 (s, 1H), 7.28 (s, 1H).

reactant | (5R, 6RS)-6-{(RS)-Acetoxy-[4,5,6,7-tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-yl]-methyl}-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 643.6 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(N4CCCCC4=N3)C2)OC(C)=O)=O)C=C1 | C24H21BrN6O7S
reactant | phosphate | 0.5 M, 13.2 mL, pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 4.2 mL | C(C)#N | C2H3N
catalyst | Zn | 2.57 g | [Zn] | Zn
product | (6Z)-6-(4,5,6,7-tetrahydro-1,3a,3b,8-tetraaza-cyclopenta[a]indene-2-ylmethylene)-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid sodium salt | 68 mg, pH 7.4, 18% | [Na+].N=1C(=CN2C1N=C1CCCCN21)\C=C\2/C1SC=C(N1C2=O)C(=O)[O-] | InChI=1S/C15H13N5O3S.Na/c21-12-9(13-20(12)10(7-24-13)14(22)23)5-8-6-19-15(16-8)17-11-3-1-2-4-18(11)19;/h5-7,13H,1-4H2,(H,22,23);/q;+1/p-1/b9-5-;
